US07345050B2
(4-Bromophenyl)(1H-indol-6-yl)methanone
To hexane washed potassium hydride (0.30 g, 1.5 mmol), suspended in anhydrous diethylether (1.5 mL), was added 5-bromoindole (0.241 g, 1.23 mmol) dissolved in diethyl ether (2.0 mL) at 0° C. After 15 min, the mixture was cooled to −78 ° C. and tert-buthyllithium (1.5 mL, 2.55 mmol), pre-cooled to −78° C., was added via cannula. After 10 min 4-bromo-N-methoxy-N-methylbenzamide (0.30 g, 1.2 mmol) in diethylether (2.0 mL), pre-cooled to −78° C., was added. The reaction mixture was kept at −78° C. for 10 min and then allowed to warm up to room temperature and stirred for another hour. HCl (1M, 5 mL) was added and the mixture stirred for 15 min. The phases were separated and the aqueous phase was extracted with ethyl acetate. The combined organic phases were washed with water and brine, dried over MgSO4, and the solvent was evaporated. The crude product was purified by flash column chromatography on silica using methylene chloride as the eluent affording 176 mg (48% yield) of the title compound as a pale yellow solid: mp 47-49° C.; 1H NMR (400 MHz, CDCl3) δ 8.55 (br s, 1 H), 8.01 (s, 1 H), 7.87 (m, 2 H), 7.72 (m, 2 H), 7.68 (dd, J=8.2 Hz, J=1.4 Hz, 1 H), 7.52 (m, 1 H), 7.35 (s, 1 H), 6.74 (m, 1 H); 13C NMR (100.5 MHz, CDCl3) δ 196.5, 138.0, 135.4, 132.0, 131.9, 131.8, 131.4, 128.5, 127.1, 122.4, 120.8, 114.6, 103.6; MS TSP) m/z 300, 302 (M+1).

reactant | potassium hydride | 1.5 mmol, 0.30 g | [H-].[K+]
reactant | 5-bromoindole | 1.23 mmol, 0.241 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 4-bromo-N-methoxy-N-methylbenzamide | 1.2 mmol, 0.30 g | BrC1=CC=C(C(=O)N(C)OC)C=C1 | C9H10BrNO2
reactant | HCl | 1M, 5 mL | Cl | ClH
solvent | diethylether | 1.5 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 2.0 mL | C(C)OCC | C4H10O
solvent | diethylether | 2.0 mL | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | (4-Bromophenyl)(1H-indol-6-yl)methanone | 176 mg, 48% yield | BrC1=CC=C(C=C1)C(=O)C1=CC=C2C=CNC2=C1 | C15H10BrNO
